US09193669B2
A mixture of 3-bromo-5-iodophenol (1.40 g, 4.68 mmol), benzyl bromide (0.89 g, 5.20 mmol) and anhydrous K2CO3 (1.44 g, 10.4 mmol) in anhydrous NMP (8 mL) was stirred under argon at +70° C. for 1 hour. The reaction mixture was partitioned between aqueous NH4Cl and hexanes. Aqueous layer was additionally extracted with hexanes and combined organic layers were washed with 1N NaOH, brine, dried over anhydrous MgSO4 and concentrated under reduced pressure to give 1-(benzyloxy)-3-bromo-5-iodobenzene as a colorless oil. Yield (2.14 g, 99%); 1H NMR (400 MHz, CDCl3) δ 7.45 (t, J=1.4 Hz, 1H), 7.32-7.40 (m, 5H), 7.26 (dd, J=1.4, 2.2 Hz, 1H), 7.09 (t, J=2.0 Hz, 1H), 5.00 (s, 2H).

reactant | 3-bromo-5-iodophenol | 4.68 mmol, 1.40 g | BrC=1C=C(C=C(C1)I)O | C6H4BrIO
reactant | benzyl bromide | 5.20 mmol, 0.89 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 10.4 mmol, 1.44 g | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 8 mL | CN1CCCC1=O | C5H9NO
product | 1-(benzyloxy)-3-bromo-5-iodobenzene | C(C1=CC=CC=C1)OC1=CC(=CC(=C1)I)Br | C13H10BrIO
